US08497278B2
Step 2: 2-(4-chlorophenyl)-3-((6-chloropyrimidin-4-yl)methyl)imidazo[1,2-a]pyridine
To a mixture of 360 mg of 6-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)pyrimidin-4-ol (1.07 mmol, 1 eq) in 5 mL of ACN was added 0.98 mL of POCl3 (10.7 mmol. 10 eq). The mixture was heated to 65° C. and stirred for 1 h. The solution was then diluted with EtOAc, washed with NaHCO3, dried on MgSO4, filtered and concentrated (210 mg, 55%) m/e+=355 (M+H+).

reactant | 6-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)pyrimidin-4-ol | 1.07 mmol, 360 mg, 1 eq | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CC1=CC(=NC=N1)O | C18H13ClN4O
reactant | POCl3 | 10.7 mmol, 0.98 mL, 10 eq | O=P(Cl)(Cl)Cl | Cl3OP
solvent | ACN | 5 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-chlorophenyl)-3-((6-chloropyrimidin-4-yl)methyl)imidazo[1,2-a]pyridine | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CC1=NC=NC(=C1)Cl | C18H12Cl2N4
